Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Moexipril
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, and epigastric abdominal pain

 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS
Ms. ___ is a ___ with hypertension, hyperlipidemia, gout who
presented with nausea, vomiting, and epigastric abdominal pain.

She was reportedly well until approximately the morning of her
presentation when she developed nausea and nonbilious nonbloody
vomiting.  This progressed to the point where she was unable to
tolerate any oral intake including sips of water.  There was
associated epigastric pain that started around the same time as
the nausea, which she tells me was moderate but which she told
the ED reached 9 out of 10 in intensity.  She ultimately began 
to
feel lightheaded with standing.  She activated EMS and was
brought to our emergency room.

In the ED, she had stable vital signs, with mild hypertension. 
Laboratory studies were remarkable for a hemolyzed chemistry
panel with a subsequently normal potassium, CBC with mild
leukocytosis with left shift and normal hematocrit.  Lactate was
2.2, and lipase was just 29.  She underwent CT of the abdomen
with contrast that on wet read showed no acute pathology, and a
chest x-ray that also showed no acute abnormalities.  She was
given morphine, Zofran, IV fluids, and her home
antihypertensives, and admission was requested.  She apparently
endorsed dysuria in the emergency room urine specimen was
obtained for analysis but a culture was sent.

She currently reports feeling slightly better than she was in 
the
emergency room. Of note, she reports that she takes two Advil 
per
day most days, for aches and pains.  She also tells me that she
has been having fairly loose stool that has been happening with
her bouts of vomiting.

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY
ARM PAIN                                                        
GOUT                                                            
HYPERCHOLESTEROLEMIA                                            
HYPERTENSION                                                    
OSTEOARTHRITIS                                                  
PRIOR-AUTHORIZATION -RX                                         
ROUTINE HEALTH MAINTENANCE                                      
HOME SERVICES    
 
Social History:
___
Family History:
FAMILY HISTORY
Family history was reviewed and is thought impertinent to 
current
presentation.  She denies any significant family history of
medical problems.

 
Physical Exam:
PHYSICAL EXAM
Vitals: noted, stable at discharge ***
  
Gen: NAD, lying in bed
Eyes: EOMI, sclerae anicteric  
HENT: NCAT, MMM, OP clear, hearing adequate
Cardiovasc: RRR, no obvious MRG. Full pulses, no edema.
Resp: normal effort, breathing unlabored, no accessory muscle
use, lungs CTA ___ without adventitious sounds.
GI: Soft, BS+ slightly hyperactive. Mildly distended, gaseous.
Mildly tender in the epigastrum and RUQ. No HSM.
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect. Thought linear.
GU: No foley

 
Pertinent Results:
___ 05:43AM BLOOD WBC-4.4 RBC-3.66* Hgb-11.0* Hct-33.1* 
MCV-90 MCH-30.1 MCHC-33.2 RDW-13.3 RDWSD-43.9 Plt ___
___ 10:35AM BLOOD WBC-5.4 RBC-3.81* Hgb-11.5 Hct-34.7 
MCV-91 MCH-30.2 MCHC-33.1 RDW-13.7 RDWSD-45.7 Plt ___
___ 05:49AM BLOOD WBC-5.7 RBC-3.66* Hgb-11.2 Hct-32.9* 
MCV-90 MCH-30.6 MCHC-34.0 RDW-13.4 RDWSD-43.9 Plt ___
___ 07:45PM BLOOD WBC-10.2* RBC-4.14 Hgb-12.7 Hct-37.0 
MCV-89 MCH-30.7 MCHC-34.3 RDW-13.3 RDWSD-43.8 Plt ___
___ 05:49AM BLOOD Neuts-71.5* ___ Monos-8.6 
Eos-0.5* Baso-0.0 Im ___ AbsNeut-4.06 AbsLymp-1.08* 
AbsMono-0.49 AbsEos-0.03* AbsBaso-0.00*
___ 07:45PM BLOOD Neuts-82.2* Lymphs-12.9* Monos-4.0* 
Eos-0.3* Baso-0.1 Im ___ AbsNeut-8.40* AbsLymp-1.32 
AbsMono-0.41 AbsEos-0.03* AbsBaso-0.01
___ 05:43AM BLOOD Glucose-97 UreaN-11 Creat-0.9 Na-142 
K-3.4 Cl-104 HCO3-26 AnGap-12
___ 10:35AM BLOOD Glucose-107* UreaN-15 Creat-1.0 Na-147 
K-4.2 Cl-107 HCO3-26 AnGap-14
___ 05:49AM BLOOD Glucose-105* UreaN-16 Creat-1.0 Na-148* 
K-4.1 Cl-108 HCO3-23 AnGap-17
___ 07:45PM BLOOD Glucose-107* UreaN-18 Creat-0.9 Na-137 
K-7.6* Cl-99 HCO3-22 AnGap-16
___ 10:35AM BLOOD ALT-21 AST-21 AlkPhos-112* TotBili-1.0
___ 07:45PM BLOOD ALT-31 AST-73* AlkPhos-113* TotBili-0.9
___ 07:45PM BLOOD Lipase-29
___ 10:35AM BLOOD cTropnT-<0.01
___ 07:45PM BLOOD cTropnT-<0.01

CXR: no acute process
CT:IMPRESSION:  
  
No acute abdominopelvic pathology. 

RUq u/s:
IMPRESSION:  
1.  Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study. 
2.  No cholelithiasis or evidence of cholecystitis. 

 
Brief Hospital Course:
This is a ___ with hypertension, hyperlipidemia, gout who
presented with nausea, vomiting, and epigastric abdominal pain.

# Nausea, vomiting, epigastric pain
# Diarrhea/loose stool
# Leukocytosis
# Orthostatic symptoms
# Hypovolemia
# Most likely gastroenteritis: Differential diagnosis for her
symptoms include gastroenteritis, gastritis/PUD (note is made of
twice daily Advil use most days), gastroesophagitis, gallbladder
pathology. Low suspicion for coronary ischemia (borderline ST
segment depressions in the setting of a variable baseline but in
a somewhat territorial lateral distribution, Troponin was 
negative x2. 
Her right upper quadrant ultrasound showed statohepatitis, 
however more advanced liver disease including steatohepatitis or 
significant 
hepatic fibrosis/cirrhosis could not be excluded. Outpatient 
follow was recommended. Pt tolerated liquid and solid diet well. 
She was given pantoprazole 40 mg daily while inpatient. 
Orthostatics vitals were negative.

# Hyperkalemia
# Elevated AST: This was due to grossly hemolyzed sample. Repeat
labs were normal. 

# HTN - continued atenolol, amlodipine. She was noted to have 
SBP in the 160's and pt reported that this was "low" for her. 
Could not increase atenolol further given HR in the ___'s. Pt 
encouraged to f/u with her PCP this week for BP check and 
further discussion of additional agents if needed. 
# HL - continued atorvastatin 
# Gout: Stable.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Atenolol 75 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Atenolol 75 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gastroenteritis 
hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for abdominal pain with nausea, vomiting and 
diarrhea. Your symptoms were likely due to a gastroenteritis. 
Your CT and ultrasound were unrevealing. Fortunately, your 
symptoms improved and you were able to tolerate a regular diet 
prior to discharge. 
You will need to follow up with your PCP within ___ week to 
recheck your blood pressure. 
 
Followup Instructions:
___